US08193351B2
TBDMSCl (5.22 g) was added to a dimethylformamide solution (50 mL) of imidazole (2.83 g) and 2,4-dichloro-5-iodophenol (10 g), which was synthesized according to the production method described in WO 2001/027088. The mixture was stirred at room temperature for 4 hours. Water (150 mL) was added and extracted with hexane (200 mL). The extract was then washed in succession twice with water (100 mL) and once with brine (100 mL), and was pre-dried over anhydrous sodium sulfate, and then filtered. The solvent was distilled off, and the resulting residue was purified by silica gel column chromatography (developing solvent: hexane) to give tert-butyl-(2,4-dichloro-5-iodophenoxy)-dimethyl-silane as pale yellow oil (11.39 g).

reactant | TBDMSCl | 5.22 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | imidazole | 2.83 g | N1C=NC=C1 | C3H4N2
reactant | 2,4-dichloro-5-iodophenol | 10 g | ClC1=C(C=C(C(=C1)Cl)I)O | C6H3Cl2IO
solvent | Water | 150 mL | O | H2O
product | tert-butyl-(2,4-dichloro-5-iodophenoxy)-dimethyl-silane | 11.39 g | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C(=C1)I)Cl)Cl | C12H17Cl2IOSi
